US07348337B2
Preparation of 4-[1-Phenyl-1-(5-isopropenyl-1,3,4-oxadiazol-2-yl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester:
To a solution 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester (0.140 g, 0.422 mmol) and iPr2NEt (0.507 mL, 2.913 mmol) in CH3CN (5 mL) was added methacrylic anhydride (0.079 mL, 0.53 mmol) and the mixture was allowed to stir at room temperature for 1 h. To this mixture was then added PPh3 (0.454 g, 1.73 mmol), followed by hexachloroethane (0.230 g, 0.971 mmol). The mixture was allowed to stir for an additional 1 h and then it was worked up as in Method A above and the crude product purified by preparative HPLC to give the title compound (0.060 g, 37%) as a colorless solid:

reactant | 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester | 0.422 mmol, 0.140 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C(=O)NN)C1=CC=CC=C1 | C18H25N3O3
reactant | iPr2NEt | 2.913 mmol, 0.507 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methacrylic anhydride | 0.53 mmol, 0.079 mL | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | PPh3 | 1.73 mmol, 0.454 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | hexachloroethane | 0.971 mmol, 0.230 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 4-[1-Phenyl-1-(5-isopropenyl-1,3,4-oxadiazol-2-yl)-methylene]-piperidine-1-carboxylic acid tert-butyl ester | 0.060 g, 37% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C(=C)C)C1=CC=CC=C1 | C22H27N3O3
